* C:\Python\projects\PyLTSpice\tests\AC - STEP.asc
Vin in 0 AC 1
R1 in out {R1}
C1 out 0 159.1549µ
.ac list 1 10
.step param R1 list 1k 10k
.backanno
.end
