* C:\Python\projects\ltsipy\tests\simulations\TRAN - STEP.asc
Vin in 0 PWL(0 0 10n {Vin})
R1 in out {R1}
C1 out 0 1µ
.tran 5m
.step param Vin list 1 10
.param Vin=2
.param R1=1k
.step param R1 list 1k 10k
.backanno
.end
